US05216159
A mixture of 4-(3-Butenyl)-4-hydroxy-cyclohexanone ethylene ketal (1.8 g) in methanol (40 mL) was ozonized at -70° C. until a persistant blue color was obtained. The ozonide was decomposed with excess sodium borohydride at -60° C. The reaction was concentrated in vacuo and the residue was partitioned between brine and ethyl acetate. The aqueous layer was extracted several more times with ethyl acetate and the combined organic extracts were dried over magnesium sulfate and the solvent was removed in vacuo. The residue was purified by flash chromatography with ethyl acetate as the eluent to afford 4-(3-Hydroxypropyl)-4-hydroxy-cyclohexanone ethylene ketal as an oil.

reactant | 4-(3-Butenyl)-4-hydroxy-cyclohexanone ethylene ketal | 1.8 g | C1COC2(CCC(CC2)(O)CCC=C)O1 | C12H20O3
reactant | sodium borohydride | [BH4-].[Na+]
reactant | methanol | 40 mL | CO | CH4O
product | 4-(3-Hydroxypropyl)-4-hydroxy-cyclohexanone ethylene ketal | C1COC2(CCC(CC2)(O)CCCO)O1 | C11H20O4
